US07012089B2
3-Methyl-2,3,4,5,10,11-hexahydro-1H,9H-cyclopenta[b][1,4]diazocino[7,8,1-hi]indole
To a solution of 4-methyl-3,4,5,6-tetrahydro-2H-benzo[e][1,4]diazocin-1-ylamine (1.55 g, 8.1 mmole) in 1-propanol (100 mL) was added cyclopentanone (5.23 g, 62.3 mmole), followed by p-toluenesulfonic acid monohydrate (3.2 g, 16.8 mmole), and the resulting reaction mixture was refluxed for 40 hours. The reaction mixture was cooled to room temperature and solvent removed in vacuo to produce a brown residue. The residue was diluted with ethyl acetate (300 mL) and washed with saturated aqueous sodium bicarbonate (150 mL), saturated aqueous sodium chloride (150 mL), dried (sodium sulfate) and concentrated in vacuo. Purification by flash column chromatography (silica gel, ethyl acetate:hexanes 1:1) provided 0.50 g of the title compound as a white solid, mp 128-130° C. MS (ESI) m/z 241 ([M+H]+).

reactant | 4-methyl-3,4,5,6-tetrahydro-2H-benzo[e][1,4]diazocin-1-ylamine | 8.1 mmole, 1.55 g | CN1CCN(C2=C(CC1)C=CC=C2)N | C11H17N3
reactant | cyclopentanone | 62.3 mmole, 5.23 g | C1(CCCC1)=O | C5H8O
reactant | p-toluenesulfonic acid monohydrate | 16.8 mmole, 3.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 1-propanol | 100 mL | C(CC)O | C3H8O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 3-Methyl-2,3,4,5,10,11-hexahydro-1H,9H-cyclopenta[b][1,4]diazocino[7,8,1-hi]indole | 0.50 g | CN1CCN2C3=C(C4=CC=CC(=C24)CC1)CCC3 | C16H20N2
